US07855290B2
N-[3-Fluoro-4-({6-{(morpholin-4-ylcarbonyl)amino}pyrimidin-4-yl}oxy)phenyl]-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide
[6-(2-Fluoro-4-{[1-(4-fluorophenylcarbamoyl)cyclopropanecarbonyl]amino}phenoxy)pyrimidin-4-yl]carbamic acid phenyl ester (40 mg) was dissolved in N,N-dimethylformamide (1.0 ml), and morpholine (0.045 ml) was added thereto, followed by stirring for 26 hr. The reaction mixture was partitioned between ethyl acetate (50 ml) and a saturated aqueous solution of ammonium chloride (20 ml). The organic layer was washed with a saturated aqueous solution of ammonium chloride (20 ml), water (20 ml) and brine (20 ml) in this order, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the resultant residue was purified by silica gel column chromatography (Fuji Silysia NH, eluent; heptane:ethyl acetate=1:5, then ethyl acetate). Fractions containing the target compound were concentrated under reduced pressure, and the resultant residue was suspended in diethyl ether (2 ml) and hexane (4 ml). The solid was collected by filtration and dried under aeration to provide the titled compound as white powder (18.3 mg, 82.9%).

reactant | [6-(2-Fluoro-4-{[1-(4-fluorophenylcarbamoyl)cyclopropanecarbonyl]amino}phenoxy)pyrimidin-4-yl]carbamic acid phenyl ester | 40 mg | C1(=CC=CC=C1)OC(NC1=NC=NC(=C1)OC1=C(C=C(C=C1)NC(=O)C1(CC1)C(NC1=CC=C(C=C1)F)=O)F)=O | C28H21F2N5O5
reactant | morpholine | 0.045 ml | N1CCOCC1 | C4H9NO
solvent | N,N-dimethylformamide | 1.0 ml | CN(C=O)C | C3H7NO
product | N-[3-Fluoro-4-({6-{(morpholin-4-ylcarbonyl)amino}pyrimidin-4-yl}oxy)phenyl]-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide | 18.3 mg, 82.9% | FC=1C=C(C=CC1OC1=NC=NC(=C1)NC(=O)N1CCOCC1)NC(=O)C1(CC1)C(=O)NC1=CC=C(C=C1)F | C26H24F2N6O5
